US05792740
(Z)-11-Tetradecen-14-olide
The 13-oxabicyclo[10.3.0]pentadecan-12-yl hydroperoxide used as starting product is a novel compound which was prepared from 13-oxabicyclo[10.3.0]pentadec-1(12)-ene having the following characteristics:

reactant | 13-oxabicyclo[10.3.0]pentadecan-12-yl hydroperoxide | C12CCCCCCCCCCC2(OCC1)OO | C14H26O3
reactant | 13-oxabicyclo[10.3.0]pentadec-1(12)-ene | C1=2CCCCCCCCCCC2OCC1 | C14H24O
product | (Z)-11-Tetradecen-14-olide | C1(CCCCCCCCC\C=C/CCO1)=O | C14H24O2
